US05502060
A quantity of CuCN, 2.43 g, was added to a solution of butadiene monooxide, 19 g, in 500 mL anhydrous tetrahydrofuran and the mixture was cooled to -78° C. Phenyl magnesium bromide solution in ether, 32 mmol, was added dropwise to this mixture. The reaction mixture was warmed to 0° C. and was stirred until the reaction became homogeneous. The reaction mixture was cooled to -78° C. and 0.29 mole of phenylmagnesium bromide solution in ether was added dropwise for 30 min. The reaction mixture was allowed to warm to room temperature with stirring then quenched by slow addition of saturated NH4Cl (50 mL) followed by NH4OH (30 mL), saturated NH4Cl (200 mL) and H2O (100 mL). Aqueous layer was extracted with two 200 mL portions of ethyl acetate. Combined organic layers were dried and concentrated. The residue was distilled under vacuum (0.1 torr) at 100° C. to give trans-4-phenyl-2 -butene-1-ol (38.9 g, 79% pure).

reactant | CuCN | C(#N)[Cu]
reactant | butadiene monooxide | C1C(C=C)O1 | C4H6O
reactant | Phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | phenylmagnesium bromide | 0.29 mole | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | trans-4-phenyl-2 -butene-1-ol | 38.9 g, 79% | C1(=CC=CC=C1)C/C=C/CO | C10H12O
